US07723330B2
Step D: Preparation of 5-(3-fluoro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one:
To a mixture of 5-(3-fluoro-4-hydroxyphenyl)-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one (25.2 mg, 0.077 mmol) and 1-(4-methoxybenzyl)-4-chloro-3-methyl-1H-pyrazolo[3,4-b]pyridine (20 mg, 0.070 mmol) dissolved in DMF (0.5 mL), added KOtBu (0.077 ml, 0.077 mmol) 1M solution in THF, and potassium carbonate (10.6 mg, 0.077 mmol). The mixture was stirred at 110° C. overnight. Cooled to room temperature and partitioned between EtOAc (15 mL) and water (20 mL). The organic layer was dried with brine, Na2SO4, and evaporated to afford 27 mg of crude product. Purified by silica gel column chromatography (Biotage 12M) eluting with 5% MeOH/EtOAc to afford desired product as white solid (4.6 mg, 11%). LRMS (APCI pos) m/e 581.2 (M+1).

reactant | 5-(3-fluoro-4-hydroxyphenyl)-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one | 0.077 mmol, 25.2 mg | FC=1C=C(C=CC1O)C=1C(N(C(=NC1)NC1=CC=C(C=C1)F)C)=O | C17H13F2N3O2
reactant | 1-(4-methoxybenzyl)-4-chloro-3-methyl-1H-pyrazolo[3,4-b]pyridine | 0.070 mmol, 20 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3Cl)C)C=C1 | C15H14ClN3O
reactant | KOtBu | 0.077 mmol, 1M, 0.077 ml | CC(C)(C)[O-].[K+]
reactant | potassium carbonate | 0.077 mmol, 10.6 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 5-(3-fluoro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one | 4.6 mg, 11% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(N=C2C)CC2=CC=C(C=C2)OC)C=2C(N(C(=NC2)NC2=CC=C(C=C2)F)C)=O | C32H26F2N6O3
